US06326333B1
8-Methyl-2,3-dihydro-1,1,4,4-tetraoxobenz[1,4]dithiin-7-carbonyl chloride
10.0 g (0.0345 mol) of 8-methyl-2,3-dihydro-1,1,4,4-tetraoxobenz-[1,4]dithiin-7-carboxylic acid were dissolved in 100 ml of toluene, and two drops of dimethylformamide and then 4.5 g (0.038 mol) of thionyl chloride were added. After four hours of stirring under reflux, the mixture was concentrated. The colorless oil that remained (yield 10.6 g) could be directly employed further.

reactant | 8-methyl-2,3-dihydro-1,1,4,4-tetraoxobenz-[1,4]dithiin-7-carboxylic acid | 0.0345 mol, 10.0 g | CC1=C(C=CC2=C1S(CCS2(=O)=O)(=O)=O)C(=O)O | C10H10O6S2
reactant | thionyl chloride | 0.038 mol, 4.5 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | dimethylformamide | two drops | CN(C=O)C | C3H7NO
product | 8-Methyl-2,3-dihydro-1,1,4,4-tetraoxobenz[1,4]dithiin-7-carbonyl chloride | CC1=C(C=CC2=C1S(CCS2(=O)=O)(=O)=O)C(=O)Cl | C10H9ClO5S2
